US05204364
To a suspension of anhydrous magnesium (0.23 g) and a small crystal of iodine in anhydrous diethyl ether (3 ml) a solution of methyl iodide (1.3 g) in anhydrous diethyl ether (6 ml) is added dropwise. The mixture is refluxed for 1 hour then cooled to room temperature. To this mixture a solution of tert-butyl 5,6,7,8-tetrahydro-7-(1H-imidazol-1-ylmethyl)-8-oxo-2-naphthalenecaboxylate (1.0 g) in anhydrous tetrahydrofuran (25 ml) is added dropwise. The reaction mixture, after stirring at room temperature for 2 hours, is poured into water, neutralized with diluited hydrochloric acid and extracted with methylene chloride. The organic layer is dried over sodium sulfate and evaporated to dryness. The residue is taken up with trifluoracetic acid and refluxed for 45 minutes. The resulting solution is evaporated under reduced pressure and the residue is purified by silica gel column chromatography, eluiting with methylene chloride-methanol-acetic acid (180:20:2), to give 0.6 g of 5,6-dihydro-7-(1H-imidazol-1-ylmethyl)-8-methyl-2-naphthalenecarboxylic acid

reactant | magnesium | 0.23 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | methyl iodide | 1.3 g | CI | CH3I
reactant | tert-butyl 5,6,7,8-tetrahydro-7-(1H-imidazol-1-ylmethyl)-8-oxo-2-naphthalenecaboxylate | 1.0 g | N1(C=NC=C1)CC1CCC=2C=CC(=CC2C1=O)C(=O)OC(C)(C)C | C19H22N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5,6-dihydro-7-(1H-imidazol-1-ylmethyl)-8-methyl-2-naphthalenecarboxylic acid | 0.6 g | N1(C=NC=C1)CC=1CCC=2C=CC(=CC2C1C)C(=O)O | C16H16N2O2
